US07635715B2
Step B: Preparation of N-((7-Phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (169 mg, 401 μmol) was stirred in TFA (1 mL, 13462 μmol) at room temperature for 20 minutes. The reaction mixture was partitioned between water and EtOAc. The organic layer was separated, dried (MgSO4), and concentrated in vacuo to give the desired product as a yellow solid (140 mg). MS (m/z)=366.2 (M+H)+. Calculated for C21H19NO5 365.13.

reactant | 1,1-Dimethylethyl N-((7-phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 401 μmol, 169 mg | C1(=CC=CC=C1)C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C25H27NO5
reactant | TFA | 13462 μmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Phenyl-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 140 mg | C1(=CC=CC=C1)C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O | C21H19NO5
